US08119692B2
(S)-2-((R)-2-(4-Fluoro-3-methylphenyl)-2-methoxyethyl)pent-4-enoic acid (Intermediate F4)
To a suspension of 217 mg NaH in 20 mL THF was added (S)-2-((R)-2-(4-fluoro-3-methylphenyl)-2-hydroxyethyl)pent-4-enoic acid in 5 mL THF slowly at room temperature. To this mixture was added methyl iodide (289 μL) dropwise followed by stirring for 3 h at 25° C. The reaction was quenched by the addition of 10 mL 1M HCl and then extracted with ethylacetate (3×30 mL). The combined organic layers were washed with brine (2×20 mL) and dried over sodium sulfate. Evaporation of solvent afforded an oil which was used without further purification in the next reaction.

reactant | NaH | 217 mg | [H-].[Na+]
reactant | (S)-2-((R)-2-(4-fluoro-3-methylphenyl)-2-hydroxyethyl)pent-4-enoic acid | FC1=C(C=C(C=C1)[C@@H](C[C@@H](C(=O)O)CC=C)O)C | C14H17FO3
reactant | methyl iodide | 289 μL | CI | CH3I
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (S)-2-((R)-2-(4-Fluoro-3-methylphenyl)-2-methoxyethyl)pent-4-enoic acid | FC1=C(C=C(C=C1)[C@@H](C[C@@H](C(=O)O)CC=C)OC)C | C15H19FO3
